US05132317
5-[4-(2-Phenoxyethoxy)benzyl]-2,4-thiazolidinedione
5-[4-(2-Phenoxyethoxy)benzylidene]-2,4-thiazolidinedione (4 g) in dry 1,4-dioxan (200 ml) was reduced under hydrogen in the presence of 10% palladium on charcoal (8 g) at ambient temperature and atmospheric pressure until hydrogen uptake ceased. The solution was filtered through diatomaceous earth, the filter pad was washed exhaustively with dioxan and the combined filtrates were evaporated to dryness under vacuum. The title compound (mp 133° C.) was obtained after crystallisation from methanol.

reactant | 5-[4-(2-Phenoxyethoxy)benzylidene]-2,4-thiazolidinedione | 4 g | O(C1=CC=CC=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C18H15NO4S
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxan | 200 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | 8 g | [Pd] | Pd
product | 5-[4-(2-Phenoxyethoxy)benzyl]-2,4-thiazolidinedione | O(C1=CC=CC=C1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C18H17NO4S
